US08183275B2
To a solution of 2-{2-(4-bromophenyl)ethyl}-5-(2,2-dimethylbutyl)1H-imidazole (4.36 g, 13.0 mmol), triethylamine (5.0 mL, 39.0 mmol) and 4-dimethylaminopyridine (50 mg, 0.4 mmol) in dichloromethane (30 mL) was added Boc anhydride. After stirring at rt for 15 h, the reaction mixture was diluted with ethyl acetate (100 mL) and washed with water (2×), brine, dried over MgSO4, filtered and concentrated. The resulting residue was purified by flash column chromatography on silica gel eluting with 5-15% ethyl acetate in hexanes to afford t-butyl 2-[2-(4-bromophenyl)ethyl]-5-(2,2-dimethylbutyl)-1H-imidazole-1-carboxylate. LC-MS: m/e 435 (M+H)+.

reactant | 2-{2-(4-bromophenyl)ethyl}-5-(2,2-dimethylbutyl)1H-imidazole | 13.0 mmol, 4.36 g | BrC1=CC=C(C=C1)CCC=1NC(=CN1)CC(CC)(C)C | C17H23BrN2
reactant | triethylamine | 39.0 mmol, 5.0 mL | C(C)N(CC)CC | C6H15N
reactant | Boc anhydride | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 0.4 mmol, 50 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | t-butyl 2-[2-(4-bromophenyl)ethyl]-5-(2,2-dimethylbutyl)-1H-imidazole-1-carboxylate | BrC1=CC=C(C=C1)CCC=1N(C(=CN1)CC(CC)(C)C)C(=O)OC(C)(C)C | C22H31BrN2O2
